US07897619B2
(S)-tert-Butyl 4-(4-bromo-1H-pyrazol-1-yl)-1-(4-chlorophenyl)butan-2-ylcarbamate:
To a mixture of 4-bromopyrazole (1.26 g, 8.57 mmol) and cesium carbonate (4.66 g, 14.3 mmol) in DMF (20 mL) was added (3S)-3-((tert-butoxycarbonyl)amino)-4-(4-chlorophenyl)butyl methanesulfonate (2.70 g, 7.15 mmol). The mixture was stirred for 16 hours at room temperature. The mixture was diluted with DCM and washed with H2O (2×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography (EtOAc/Hexanes, 0-25%) to give the product as an off-white solid (2.86 g, 93%). LCMS (API-ES) m/z: 428, 430 (M+H+).

reactant | 4-bromopyrazole | 8.57 mmol, 1.26 g | BrC=1C=NNC1 | C3H3BrN2
reactant | cesium carbonate | 14.3 mmol, 4.66 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3S)-3-((tert-butoxycarbonyl)amino)-4-(4-chlorophenyl)butyl methanesulfonate | 7.15 mmol, 2.70 g | CS(=O)(=O)OCC[C@H](CC1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C | C16H24ClNO5S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-tert-Butyl 4-(4-bromo-1H-pyrazol-1-yl)-1-(4-chlorophenyl)butan-2-ylcarbamate | 2.86 g, 93% | BrC=1C=NN(C1)CC[C@H](CC1=CC=C(C=C1)Cl)NC(OC(C)(C)C)=O | C18H23BrClN3O2
